US06313122B1
A. 4-(4-Pyridyl)benzyl Alcohol
A solution of sodium 4-(4-pyridyl)benzoate (500 mg, 2.26 mmol), and N-methylmorpholine (0.250 mL, 2.26 mmol) in tetrahydrofuran (12 mL) was treated with ethyl chloroformate (0.216 mL, 2.26 mmol). After 0.25 h, the mixture was treated with sodium borohydride (256 mg, 6.79 mmol) followed by methanol (24 mL) dropwise. After 0.5 h, the mixture was treated with 10% aqueous acetic acid and concentrated in vacuo. The residue was partitioned between ethyl acetate and 1 N aqueous sodium hydroxide. The aqueous layer was extracted twice with ethyl acetate and the combined extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo to yield 140 mg of the title compound which was used without further purification.

reactant | sodium 4-(4-pyridyl)benzoate | 2.26 mmol, 500 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | N-methylmorpholine | 2.26 mmol, 0.250 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 2.26 mmol, 0.216 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 6.79 mmol, 256 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 24 mL | CO | CH4O
product | 4-(4-Pyridyl)benzyl Alcohol | 140 mg | N1=CC=C(C=C1)C1=CC=C(CO)C=C1 | C12H11NO
